US05275925
In 600 parts of dimethylformamide, 0.5 mol (60 parts) of 2,5-diaminothiophene, 2.3 mol (360 parts) of p-nitrochlorobenzene, 1.2 mol (170 parts) of anhydrous potassium carbonate and 10 parts of copper powder were refluxed with stirring for 4 days. After the reaction was completed, the reaction mixture was filtered, and the residue was thoroughly washed with dimethylformamide, water and acetone, and then dried. Thus, 105 parts of reddish brown tetrakis(p-nitrophenyl)-2,5-diaminothiophene was obtained.

reactant | 2,5-diaminothiophene | 0.5 mol | NC=1SC(=CC1)N | C4H6N2S
reactant | p-nitrochlorobenzene | 2.3 mol | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
reactant | potassium carbonate | 1.2 mol | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | tetrakis(p-nitrophenyl)-2,5-diaminothiophene | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(S(C(=C1)N)(C1=CC=C(C=C1)[N+](=O)[O-])(C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-])N | C28H22N6O8S
